US20010027196A1
N-(5-Cyano-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl)-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide
From 2-(furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile, N-(4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzoyl)-guanidine and triethylamine in DMF. ES-MS m/e (%): 438 (M+H+, 100).

reactant | 2-(furan-2-carbonyl)-3,3-bis-methylsulfanyl-acrylonitrile | O1C(=CC=C1)C(=O)C(C#N)=C(SC)SC | C10H9NO2S2
reactant | N-(4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzoyl)-guanidine | COCCN(C)CC1=CC=C(C(=O)NC(=N)N)C=C1 | C13H20N4O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(5-Cyano-4-furan-2-yl-6-methylsulfanyl-pyrimidin-2-yl)-4-{[(2-methoxy-ethyl)-methyl-amino]-methyl}-benzamide | C(#N)C=1C(=NC(=NC1SC)NC(C1=CC=C(C=C1)CN(C)CCOC)=O)C=1OC=CC1 | C22H23N5O3S
